US08247556B2
2-[(1H-Pyrrolo[2,3-b]pyridin-4-ylmethyl)amino]-N-{3-[2,2,2-trifluoro-1-hydroxy-1-(trifluoromethyl)ethyl]phenyl}nicotinamide
The titled compound was prepared from 2-fluoro-N-[3-(2,2,2-trifluoro-1-hydroxy-1-trifluoromethyl-ethyl)-phenyl]-nicotinamide and C-(1H-pyrrolo[2,3-b]pyridin-4-yl)-methylamine dihydrochloride by the method described in Step A of Example 1. MS (ES+): 510 (M+H). Calc'd. for C23H17F6N5O2—509.41.

reactant | 2-fluoro-N-[3-(2,2,2-trifluoro-1-hydroxy-1-trifluoromethyl-ethyl)-phenyl]-nicotinamide | FC1=C(C(=O)NC2=CC(=CC=C2)C(C(F)(F)F)(C(F)(F)F)O)C=CC=N1 | C15H9F7N2O2
reactant | C-(1H-pyrrolo[2,3-b]pyridin-4-yl)-methylamine dihydrochloride | Cl.Cl.N1C=CC=2C1=NC=CC2CN
product | 2-[(1H-Pyrrolo[2,3-b]pyridin-4-ylmethyl)amino]-N-{3-[2,2,2-trifluoro-1-hydroxy-1-(trifluoromethyl)ethyl]phenyl}nicotinamide | N1C=CC=2C1=NC=CC2CNC2=C(C(=O)NC1=CC(=CC=C1)C(C(F)(F)F)(C(F)(F)F)O)C=CC=N2 | C23H17F6N5O2
